US09301951B2
(S)—N1-(2-(4-(2-(2-hydroxyethoxy)ethyl)piperazin-1-yl)-2-oxoethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
Into a 100-mL round-bottom flask, was placed a solution of (S)-2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)acetic acid (200 mg, 0.31 mmol, 1.00 equiv) in dichloromethane (10 mL), EDC.HCl (113 mg, 0.59 mmol, 1.90 equiv), 4-dimethylaminopyridine (80 mg, 0.65 mmol, 2.11 equiv), 2-(2-(piperazin-1-yl)ethoxy)ethanol (103 mg, 0.59 mmol, 1.91 equiv). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 30 mL of dichloromethane. The resulting mixture was washed with 2×30 mL of NH4Cl.aq. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (200 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (23% CH3CN up to 34% in 6 min); Detector, Waters2545 UvDector 254&270 nm. 57.6 mg product was obtained. This resulted in 57.6 mg (23%) of (S)—N1-(2-(4-(2-(2-hydroxyethoxy)ethyl)piperazin-1-yl)-2-oxoethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide as a yellow solid. LC-MS (ES, m/z): 802 [M+H]+ H-NMR (300 MHz, DMSO, ppm): 12.38 (s, 1H), 9.94 (s, 1H), 9.21˜9.19 (d, J=8.4 Hz, 1H), 8.95˜8.90 (m, 1H), 8.00˜7.95 (m, 2H), 7.87˜7.84 (m, 3H), 7.67˜7.54 (m, 3H), 7.30˜7.13 (m, 5H), 5.27˜5.25 (m, 1H), 3.79˜3.69 (m, 3H), 3.57˜3.11 (m, 16H), 3.00˜2.92 (m, 4H), 2.78 (s, 2H), 2.00 (s, 2H), 1.85˜1.79 (m, 6H), 1.55 (s, 2H).

reactant | (S)-2-(N-methyl-3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)benzamido)acetic acid | 0.31 mmol, 200 mg, 1.00 equiv | CN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)CC(=O)O | C38H39N5O5
reactant | EDC.HCl | 0.59 mmol, 113 mg, 1.90 equiv | CCN=C=NCCCN(C)C.Cl
reactant | 2-(2-(piperazin-1-yl)ethoxy)ethanol | 0.59 mmol, 103 mg, 1.91 equiv | N1(CCNCC1)CCOCCO | C8H18N2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.65 mmol, 80 mg, 2.11 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)—N1-(2-(4-(2-(2-hydroxyethoxy)ethyl)piperazin-1-yl)-2-oxoethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 57.6 mg | OCCOCCN1CCN(CC1)C(CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C)=O | C46H55N7O6
